data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_356481_2,[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[C:7](=[O:8])[H:11])([N:6]([C:3]([H:15])([H:16])[H:19])[C:4]([H:17])([H:18])[H:20])([H:9])[H:10]>>[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])[N:6]([C:3]([H:15])([H:16])[H:19])[C:4]([H:17])([H:18])[H:20])([C:7](=[O:8])[H:11])([H:9])[H:10],58.643012499968
MR_478212_1,[C:1]([C:2]([C:3](=[O:7])[H:13])([O:6][H:10])[H:12])([O:4][H:8])([O:5][H:9])[H:11]>>[C:1]([C:3]1([H:13])[C:2]([O:6][H:10])([H:12])[O:7]1)([O:4][H:8])([O:5][H:9])[H:11],57.23490249999188
MR_23277_0,[C:1](/[C:3](=[N:4]/[N:2]([H:5])[H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1](=[C:3]([N:4]([N:2]([H:5])[H:6])[H:10])[H:7])([H:8])[H:9],68.83172999999715
MR_393861_1,[C:1]1(/[C:4]([N:5]([H:9])[H:10])=[C:6](/[C:3]([H:14])([H:15])[H:16])[H:13])([H:8])[C:2]([H:11])([H:12])[O:7]1>>[C:1]1(/[C:4]([N:5]([H:9])[H:10])=[C:6](/[C:3]([H:14])([H:15])[H:16])[H:13])([H:8])[C:2]([H:11])([H:12])[O:7]1,57.85926499998496
MR_86258_1,[C:1]([C:2](=[O:8])[H:10])([C:3]1([H:11])[C:4]([C:7]([H:19])([H:20])[H:21])([H:12])[O:9]1)([C:5]([H:13])([H:14])[H:18])[C:6]([H:15])([H:16])[H:17]>>[C:1]1([C:5]([H:13])([H:14])[H:18])([C:6]([H:15])([H:16])[H:17])[C:2]([C:3]2([H:11])[C:4]([C:7]([H:19])([H:20])[H:21])([H:12])[O:9]2)([H:10])[O:8]1,68.57696499999832
MR_96183_0,[C:1](/[N:6]=[N:5]/[C:3](=[C:4](\[N:2]([H:7])[H:8])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:6]1[C:4]([N:2]([H:7])[H:8])([H:10])[C:3]([H:9])=[N:5]1)([H:11])([H:12])[H:13],47.3743674999902
MR_658124_1,[C:1]([C:2](/[N:7]=[C:5](/[O:6][H:8])[H:14])([H:15])[H:16])([N:3]([H:11])[H:12])([N:4]([H:10])[H:13])[H:9]>>[C:1]1([N:4]([H:10])[H:13])([H:9])[C:2]([H:15])([H:16])[N:7]1[C:5]([N:3]([H:11])[H:12])([O:6][H:8])[H:14],53.17184000001305
MR_567286_0,[C:1]([C:2]([C:3]([C:6]([N:5]([N:4]([H:9])[H:10])[H:11])=[O:8])([H:15])[H:16])([H:13])[H:14])(=[O:7])[H:12]>>[C:1]1([O:7][H:9])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:6](=[O:8])[N:5]([H:11])[N:4]1[H:10],54.10430500001297
MR_8116_0,[C:1]([C:3]([N:4][N:2]([H:5])[H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:3]([N:4][N:2][H:5])([H:6])[H:7])([H:8])([H:9])[H:10],70.70293499999899
MR_155940_0,[C@@:1]([C:4]([O:7][H:10])=[O:9])(/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])([O:8][H:11])[H:12]>>[C:1](=[C:5](/[C:2]([H:14])([H:15])[H:16])[C@:6]([C:3]([H:17])([H:18])[H:19])([C:4]([O:7][H:10])=[O:9])[H:13])(\[O:8][H:11])[H:12],70.75689999998758
MR_244890_0,[C:1]1([H:10])=[C:8]([H:16])[C:7]2([C:5]([H:17])([H:18])[H:19])[C:2]([H:11])([C:3]([H:12])([H:13])[C:6]2=[O:9])[C:4]1([H:14])[H:15]>>[C:1]12([H:10])[C:4]([H:14])([H:15])[C:2]([H:11])([C:3]([H:12])([H:13])[C:6]1=[O:9])[C:7]([C:5]([H:17])([H:18])[H:19])=[C:8]2[H:16],49.15332999999308
MR_276469_1,[C:1]([C:3]([H:15])([H:16])[H:17])([O:6][C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])=[O:8])([H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([O:8][C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])=[O:6])([H:10])[H:11],50.663094999997895
MR_520938_2,[C:1]([C:2](/[N:5]=[N:6]/[H:10])([H:12])[H:13])([C:4]([H:18])([H:19])[H:20])([C:7]([C:3]([H:15])([H:16])[H:17])([O:8][H:11])[H:14])[H:9]>>[C:1]([C:2]([N:5]([C:3]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:18])([H:19])[H:20])([C:7](=[O:8])[H:14])[H:9],66.74529249998585
MR_250574_1,[C:1]([C:3]1([H:11])[C:2]([C:7]([H:21])([H:22])[H:23])([C:8]([H:24])([H:25])[H:26])[C:9]2([H:13])[C:4]1([H:12])[C:10]2([H:14])[H:20])([C:5]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19]>>[C:1]1([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[C:3]2([H:11])[C:2]([C:7]([H:21])([H:22])[H:23])([C:8]([H:24])([H:25])[H:26])[C:9]([H:13])=[C:10]([H:14])[C:4]12[H:12],65.572495000022
MR_524341_1,[C:1]1([N:4]([H:10])[H:11])([O:7][H:8])[N:3]([C:2]([H:13])([H:14])[H:15])[C:5]1([C:6]([H:9])([H:16])[H:17])[H:12]>>[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([N:4]([H:10])[H:11])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:8],62.88491249999467
MR_145854_1,[C@:1]([C:3](=[C:6]([H:16])[H:17])[O:7][H:9])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([N:5]([H:11])[H:12])[H:10]>>[C:1](=[C:3](/[C:6]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:16])[H:17])[O:7][H:9])(\[N:5]([H:11])[H:12])[H:10],55.97927499998747
MR_457271_0,[C:1]([C:2]([N:3]([H:11])[H:12])=[O:8])([N:4]([H:13])[H:14])(/[C:6](=[C:5](\[O:7][H:9])[H:15])[H:16])[H:10]>>[C:1](\[N:4]([H:13])[H:14])(=[C:6](\[C:5]([C:2]([N:3]([H:11])[H:12])=[O:8])([O:7][H:9])[H:15])[H:16])[H:10],69.18250250000327
MR_700680_1,[C:1](/[C:4]([N:2]1/[C:3](=[N:6]\[H:8])[O:5]1)=[N:7]\[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:4]([O:5][N:2][C:3][N:6][H:8])=[N:7]\[H:9])([H:10])([H:11])[H:12],55.725137500022726
MR_387883_1,[C:1]([C:2]([O:8][H:10])([H:13])[H:14])([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20])=[O:9])([O:7][H:11])[H:12]>>[C:1]([C:2]([O:8][H:11])([H:13])[H:14])([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20])=[O:9])([O:7][H:10])[H:12],41.74945749999537
